US06750231B2
3,4-Dimethyl-1-(2-(3-methylphenyl)ethyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 80 mg, 0.31 mmol) in N,N-dimethyl-formamide (6 mL) was added 1-(2-bromoethyl)-3-methylbenzene (Preparation 46, 67 mg, 0.31 mmol) and sodium hydrogencarbonate (40 mg, 0.47 mmol). The resultant mixture was heated to 80° C. and stirred overnight. The reaction mixture was cooled, poured onto saturated aqueous sodium hydrogencarbonate solution (100 mL) and extracted with ethyl acetate (3×20 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to give an off-white gum. The crude product was partially purified by column chromatography on a 5 g silica Waters Sep-Pak3 eluting with dichloromethane and then 5% methanol in dichloromethane. The pure fractions were collected to give the title compound as a clear oil (15 mg, 12.8%).

reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.31 mmol, 80 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | 1-(2-bromoethyl)-3-methylbenzene | 0.31 mmol, 67 mg | BrCCC1=CC(=CC=C1)C | C9H11Br
reactant | sodium hydrogencarbonate | 0.47 mmol, 40 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethyl-formamide | 6 mL | CN(C=O)C | C3H7NO
product | 3,4-Dimethyl-1-(2-(3-methylphenyl)ethyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 15 mg, 12.8% | CC1CN(CCC1(C1=CC(=CC=C1)C=1N=NNC1)C)CCC1=CC(=CC=C1)C | C24H30N4
